US07935716B2
210 mg of ethyl 1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxyl ate and 117 mg of 2-amino-4-ethylthiazole were added to 2.5 ml of bromobenzene, then, the mixture was stirred for 5.5 hours under heat refluxing condition. The reaction mixture was cooled to room temperature. The resulting solid was collected by filtration, and washed with a mixed solvent of t-butyl methyl ether and hexane and dried to obtain 150 mg of 1,6-dimethyl-N-(4-ethylthiazol-2-yl)-4-hydroxy-2-oxo-1,2-di hydropyridine-3-carboxamide (hereinafter, referred to as present compound 21) represented by the formula:

reactant | ethyl 1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxyl ate | 210 mg | CN1C(C(=C(C=C1C)O)C(=O)OCC)=O | C10H13NO4
reactant | 2-amino-4-ethylthiazole | 117 mg | NC=1SC=C(N1)CC | C5H8N2S
reactant | bromobenzene | 2.5 ml | BrC1=CC=CC=C1 | C6H5Br
product | 1,6-dimethyl-N-(4-ethylthiazol-2-yl)-4-hydroxy-2-oxo-1,2-di hydropyridine-3-carboxamide | 150 mg | CN1C(C(=C(C=C1C)O)C(=O)NC=1SC=C(N1)CC)=O | C13H15N3O3S
